* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-2-model\BuckBoost_CCM_Vc2V.sxsch
*#SIMETRIX
.node_map Vc 27
.node_map Vo 24
.node_map d 25
.node_map Vin 23
.node_map iL 26
.ac DEC 25 100 500k
.print
+ ALL
.options
+ PSP_START=3m
+ PSP_NPT=10001
+ POP_ITRMAX=200
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.pop
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=10u
+ CONVERGENCE=10f
+ CYCLES_BEFORE_LAUNCH=200
+ TD_RUN_AFTER_POP_FAILS=0
*.tran 4m 0


C2 24 0 300u
X$D1 24 16 DIODE_SPICE_V2 vars: IDmax=20 VDmax=50 TEMP=50 XDm0=-50 YDm0=-76.4712p XDm1=0.1m YDm1=1u XDm2=0.2m YDm2=2m XDm3=0.3m YDm3=50m XDm4=0.4m YDm4=100m XDm5=0.5m YDm5=20 NUMSEG=3 IC=0
H3 26 0 VH3$TP_CCVS 1 
VH3$TP_CCVS 16 17 0
V$IPROBE1 17 18 0.0
.PRINT I(V$IPROBE1)
.GRAPH IPROBE1#P axisType="grid" persistence=-1 curveLabel="IL" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
L2 18 0 10u
.PRINT V(#Vo)
.PRINT V(#Vc)
.GRAPH "db(:#Vo/:#Vc)" Curvelabel="Gain_Gd2vo" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(:#Vo/:#Vc)" Curvelabel="Phase_Gd2vo" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(21)
.GRAPH :21 axisType="auto" persistence=-1 curveLabel="Vsaw" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.PRINT V(#Vc)
.GRAPH :#Vc axisType="auto" persistence=-1 curveLabel="Vc" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe4  
.PRINT V(#Vo)
.GRAPH :#Vo axisType="owngrid" persistence=-1 curveLabel="Vo" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe5  
R3 24 0 2
X$S2 16 23 25 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1n THRESHOLD=2 HYSTWD=100m IC='OPEN' LOGIC='POS'
X$U1 25 20 0 27 21 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2M VOL=0 VOH=5 DELAY=2p
V2 21 0 SAW V1=0 V2=1 FREQ=300000 DELAY=0 OFF_UNTIL_DELAY=NO
V3 22 0 250m
V4 27 22 AC 10m 0
V5 23 0 12
X1 25 19 PERIODIC_OP vars: VREF=4 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
.end
