* C:\Users\xiang\Desktop\HW-1-model\Buck_Vc2Vo.sxsch
*#SIMETRIX
.node_map Vc 27
.node_map Vo 24
.node_map d 25
.node_map Vin 23
.node_map iL 26
.AC DEC 25 100 100k
.PRINT
+ ALL
.OPTIONS
+ PSP_START=3m
+ PSP_NPT=10001
+ POP_ITRMAX=200
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.POP
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=10u
+ CONVERGENCE=10f
+ CYCLES_BEFORE_LAUNCH=200
+ TD_RUN_AFTER_POP_FAILS=0
*.TRAN 4m 0


C1 24 18 560u
X$D2 0 16 DIODE_SPICE_V2 vars: IDmax=20 VDmax=50 TEMP=50 XDm0=-50 YDm0=-76.4712p XDm1=0.1m YDm1=1u XDm2=0.2m YDm2=2m XDm3=0.3m YDm3=50m XDm4=0.4m YDm4=100m XDm5=0.5m YDm5=20 NUMSEG=3 IC=0
H1 26 0 VH1$TP_CCVS 1 
VH1$TP_CCVS 16 17 0
L1 17 24 600n
.PRINT V(#Vo)
.PRINT V(#Vc)
.GRAPH "db(:#Vo/:#Vc)" Curvelabel="Gain_Gd2vo" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(:#Vo/:#Vc)" Curvelabel="Phase_Gd2vo" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
R1 24 0 100m
R2 18 0 6m
X$S1 16 23 25 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1n THRESHOLD=2 HYSTWD=100m IC='OPEN' LOGIC='POS'
X$U1 25 20 0 27 21 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=2M VOL=0 VOH=5 DELAY=2p
V1 23 0 12
V2 21 0 SAW V1=0 V2=1 FREQ=100000 DELAY=0 OFF_UNTIL_DELAY=NO
V3 22 0 0.1
V4 27 22 AC 10m 0
X1 25 19 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
.end
